Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
right fourth finger fracture
 
Major Surgical or Invasive Procedure:
pinning of right fourth finger fracture
 
History of Present Illness:
Mr. ___ had a fall on ___ when he tripped on the curb.  
He
sustained a fracture to his right ring finger, for which he is
being evaluated.  He was seen in the ED and sent to us.  He 
comes
today with no complaints.  He has been in an ulnar gutter 
splint.

 
Past Medical History:
1. Coronary artery disease s/p CABG surgery in ___ after an MI 
at ___  
2. Bipolar affective disorder, per patient in remission.  
3. Depression, treated with ECT at ___.  
4. Breast cancer on the left side s/p resection.  
5. Seizure disorder, described as "loss of awareness" by 
patient. Last seziure ___ years ago.  
6. h/o Pulmonary edema related to Tamoxifen, per patient.  
7. Thyroid nodule.  
8. Pulmonary embolism in ___.  
9. Cataracts, b/l.  
10. Rotator cuff tear s/p surgery.  
11. s/p ccy  

 
Social History:
___
Family History:
No h/o heart disease, seizures. Family history of breast cancer. 

 
Physical Exam:
He has ulnar deviation of his right ring finger.  He has got 
limited range of motion to that secondary to pain.  The finger 
is very well healed. Neurovascularly intact.

 
Pertinent Results:
There is a mildly displaced, comminuted fracture through the 
fourth digit proximal phalanx without intra-articular extension. 
Position and alignment is unchanged. Fracture margins are still 
visible with no evidence of osseous bridging. There is moderate 
soft tissue swelling in the fourth digit. 

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
(date) and had a (procedure).  The patient tolerated the 
procedure well.

Neuro: Post-operatively, the patient only required tylenol for 
adequate pain control.

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His diet was advanced when appropriate, 
which was tolerated well. Intake and output were closely 
monitored. 

Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 

At the time of discharge on POD#1, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled. 

 
Medications on Admission:
ASA 81mgQday, cymbalta 90mgQD, folic acid 1mgQD, metoprolol 
25mgBID, Zyprexa 10mgQD, MVI

 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a ___.  
2. Olanzapine 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
8. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain not relieved by tylenol.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right ___ finger fracture
 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent
 
Discharge Instructions:
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.

Keep your hand elevated as much as possible and use the sling 
when ambulating. Keep the hand clean and dry. 
 
Followup Instructions:
___